US05162336
When L-tryptophan is substituted for D-tryptophan in Example 1E, (3S)-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole-3-carboxylic acid is obtained.

reactant | L-tryptophan | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
reactant | D-tryptophan | N[C@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
product | (3S)-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole-3-carboxylic acid | C1N[C@@H](CC2=C1NC1=CC=CC=C21)C(=O)O | C12H12N2O2
